US04908361
A stirred solution of 2,2-dimethyl-N-[2-(1,2,3,4-tetrahydro-1-isoquinolinyl)methylphenyl]propanamide (12.5 g) and 6N hydrochloric acid solution (240 ml) was refluxed for 101/2 hours and then allowed to stand overnight (about 16 hours) at room temperature. On cooling to room temperature a colorless solid separated. The mixture was decanted over crushed ice, water (300 ml) was added, and the mixture was basified with 50% sodium hydroxide solution. The turbid mixture was extracted thrice with 200 ml portions of CH2Cl2, and the combined dried (Na2SO4) organic phase was filtered and concentrated to an oil (10.15 g). On standing at 5° C. for 36 hours, a small amount of crystalline material formed. The oil was triturated with hexane and the crystalline material stirred into the oil, which resulted in complete solidification of the oil. The solid was collected by vacuum filtration, washed with hexane and dried in vacuo at room temperature to give 8.94 g (72%) of 2-[(1,2,3,4-tetrahydro-1-isoquinolinyl)methyl]benzenamine as a solid, m.p. 69°-71° C.

reactant | 2,2-dimethyl-N-[2-(1,2,3,4-tetrahydro-1-isoquinolinyl)methylphenyl]propanamide | 12.5 g | CC(C(=O)NC1=C(C=CC=C1)CC1NCCC2=CC=CC=C12)(C)C | C21H26N2O
solvent | hydrochloric acid | 6N, 240 ml | Cl | ClH
product | 2-[(1,2,3,4-tetrahydro-1-isoquinolinyl)methyl]benzenamine | 8.94 g, 72% | C1(NCCC2=CC=CC=C12)CC1=C(C=CC=C1)N | C16H18N2
